US06897231B2
C. Synthesis of [3-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))phenyl]-N-(cyclopropylmethyl)carboxamide
To a stirred solution of N-(Cyclopropylmethyl)(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl) (1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide (0.241 g, 0.352 mmol) was added dioxane (4.0 mL) and aqueous 6 N hydrochloric acid (4.0 mL) and the mixture heated at 50° C. for 4 h. The mixture was cooled and poured into aqueous saturated sodium bicarbonate (50 mL). The aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with saturated sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and evaporated. Addition of ethyl acetate (5 mL) initiated crystal growth and the ethyl acetate phase was pipetted off. The crystals were filtered. Purification by preparative HPLC (30-80% acetonitrile/water) gave the title compound (0.0682 g, 54% yield). 1H NMR (CD3OD) δ 8.79 (s, 1H), 8.45 (m, 1H), 8.19 (dt, 1H), 8.11 (d, 1H), 7.90 (dt, 1H), 7.69 (d, 1H), 7.66 (t, 1H), 3.30 (m, 2H), 1.18 (m, 1H), 0.55 (m, 2H), 0.32 (m, 2H). ES-MS (m/z) 359 [M+1]+.

reactant | N-(Cyclopropylmethyl)(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl) (1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide | 0.352 mmol, 0.241 g | C1(CC1)CNC(=O)C1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C44H40N6O2
reactant | hydrochloric acid | 6 N, 4.0 mL | Cl | ClH
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | [3-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))phenyl]-N-(cyclopropylmethyl)carboxamide | 0.0682 g, 54% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NCC1CC1 | C20H18N6O
